US07579473B2
A stirred solution of 1-(4-benzyloxy-3-methoxyphenyl)ethanone (51.3 g, 200 mmol) in dichloromethane (750 mL) was cooled to 0° C. Nitric acid (90%, 14 mL, 300 mmol) was added dropwise to the cooled solution over 20 min. Sulfuric acid (96.2%, 16.3 mL, 300 mmol) was then added dropwise over 40 min at 0° C. Additional nitric acid (9.4 mL, 200 mmol) was added dropwise over 20 min. The reaction mixture was washed with water (3×200 mL), and saturated sodium bicarbonate (4×200 mL, or until neutral). The organic layer was dried over Na2SO4 and concentrated. The crude mixture was recrystallized from DMF to give 1-(4-benzyloxy-5-methoxy-2-nitrophenyl)ethanone (36 g, 60%). 1H NMR (400 MHz, CDCl3): δ 7.65 (s, 1H), 7.45-7.33 (m, 5H), 6.74 (s, 1H), 5.21 (s, 2H), 3.97 (s, 3H), 2.49 (s, 3H).

reactant | 1-(4-benzyloxy-3-methoxyphenyl)ethanone | 200 mmol, 51.3 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(C)=O)OC | C16H16O3
reactant | Nitric acid | 300 mmol, 14 mL | [N+](=O)(O)[O-] | HNO3
reactant | Sulfuric acid | 300 mmol, 16.3 mL | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 200 mmol, 9.4 mL | [N+](=O)(O)[O-] | HNO3
solvent | dichloromethane | 750 mL | ClCCl | CH2Cl2
product | 1-(4-benzyloxy-5-methoxy-2-nitrophenyl)ethanone | 36 g, 60% | C(C1=CC=CC=C1)OC1=CC(=C(C=C1OC)C(C)=O)[N+](=O)[O-] | C16H15NO5
